US04758577
A solution of 1.00 gram (3.62 millimoles) of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine in 20 milliliters of benzene and 0.38 gram (7.24 millimoles) of acrylonitrile were heated at reflux temperature while progress of the reaction was monitored by TLC. After 2.5 hours, the reaction mixture was cooled to room temperature, and the mixture subjected to reduced pressure to vaporize the benzene solvent and excess acrylonitrile and to obtain a solid residue. The solid was recrystallized from acetonitrile/ethyl acetate to obtain a purified 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-(2-cyanoethyl)piperidine product which after drying at 100° C. at 1 millimeter mercury pressure for 2 hours and at room temperature for 15 hours, melted at 165°-168° C. The yield of the product was 760 milligrams (64 percent). A second crop was obtained which after recrystallization from acetonitrile was in the form of white needles, m.p. 169°-170° C. The product had elemental analyses as follows:

reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 3.62 millimoles, 1.00 gram | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCNCC3 | C20H21N
reactant | acrylonitrile | 7.24 millimoles, 0.38 gram | C(C=C)#N | C3H3N
solvent | benzene | 20 milliliters | C1=CC=CC=C1 | C6H6
product | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-(2-cyanoethyl)piperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)CCC#N | C23H24N2
